US08980911B2
A solution of N-{1-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[3,2-c]pyridin-4-yl}cyclopropanecarboxamide (0.37 mmol) in dichloromethane was cooled to 0° C. and was treated dropwise with phosphorous tribromide (0.74 mmol). The reaction mixture was then stirred at room temperature for about 2 hours, diluted with dichloromethane and washed with saturated sodium bicarbonate solution. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to get N-{1-[4-(bromomethyl)-2,6-dichlorobenzoyl]-1H-pyrrolo[3,2-c]pyridin-4-yl}cyclopropane carboxamide as white solid.

reactant | N-{1-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[3,2-c]pyridin-4-yl}cyclopropanecarboxamide | 0.37 mmol | ClC1=C(C(=O)N2C=CC=3C(=NC=CC32)NC(=O)C3CC3)C(=CC(=C1)CO)Cl | C19H15Cl2N3O3
reactant | phosphorous tribromide | 0.74 mmol | P(Br)(Br)Br | Br3P
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{1-[4-(bromomethyl)-2,6-dichlorobenzoyl]-1H-pyrrolo[3,2-c]pyridin-4-yl}cyclopropane carboxamide | BrCC1=CC(=C(C(=O)N2C=CC=3C(=NC=CC32)NC(=O)C3CC3)C(=C1)Cl)Cl | C19H14BrCl2N3O2
